US07244843B2
Step A. Preparation of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-hydroxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(cis-1-propenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (182 mg, 0.46 mmol) in MeOH (5.0 mL) at −78° C. was bubbled ozone for 5 min. until the reaction turned a light blue color. After 5 min., sodium borohydride (23 mg, 0.6 mmol) was added. The reaction was stir for 1 hr and then warmed to room temp. The reaction was conc. in vacuo to a white solid and then dissolved in 1M aq. HCl. After 15 min, the reaction was diluted with EtOAc, basefied with NaHCO3, and treated with di-t-butyl dicarbonate (125 mg, 0.58 mmol). After 1 h, the reaction was extracted with EtOAc (3×5 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a colorless oil. The oil was purified by flash chromatography (silica gel, 0–50% EtOAc in hexanes) to give 141 mg of the desired product as a white solid. MS (ESI) 387 (M+H).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(cis-1-propenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.46 mmol, 182 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)\C=C/C)C(F)(F)F)=O)CC1 | C20H23F3N2O3
reactant | ozone | O=[O+][O-] | O3
reactant | sodium borohydride | 0.6 mmol, 23 mg | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | di-t-butyl dicarbonate | 0.58 mmol, 125 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 5.0 mL | CO | CH4O
solvent | HCl | 1M | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-hydroxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 141 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)CO)C(F)(F)F)=O)CC1 | C18H21F3N2O4
